US06140496
3',5'-O-Bis-tert.-butyldimethylsilyl-2'-deoxyadenosine N-oxide.
To a solution of 3',5'-O-bis-tert.-butyldimethylsilyl-2'-deoxyadenosine (Ogilvie, K. K. (1973) Can. J. Chem. 51, 3799-3807.)(6.0 g, 12.5 mmol) in a mixture of EtOH and H2O (2.5:1) was added at RT monopermaleic acid (24 mmol). After 2 days, another 6 equiv. of monopermaleic acid were added, and the reaction continued for two weeks. Continuous monitoring (TLC on SiO2, 10% MeOH in CH2Cl2) showed that the reaction did not proceed to completion even though peracid was still detectable (KI test). After two weeks, CH2Cl2 was added, the organic phase extracted with saturated NaHCO3, and 3',5'-O-bis-tert.-butyldimethylsilyl-2'-deoxyadenosine N-oxide (3.41 g, 55%) isolated by chromatography (SiO2, EtOAc:hexane 4:1) together with starting material (2.33 g, 39%).

reactant | 3',5'-O-bis-tert.-butyldimethylsilyl-2'-deoxyadenosine | 12.5 mmol, 6.0 g | C(C)(C)(C)[C@@]1(C[C@@](O[C@@H]1COC(C)(C)C)(N1C=NC=2C(N)=NC=NC12)[SiH](C)C)O | C20H35N5O3Si
reactant | MeOH | CO | CH4O
solvent | EtOH | CCO | C2H6O
solvent | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3',5'-O-Bis-tert.-butyldimethylsilyl-2'-deoxyadenosine N-oxide | 2.33 g, 39% | C(C)(C)(C)[C@@]1(C[C@@](O[C@@H]1COC(C)(C)C)(N1C=NC=2C([NH2]=O)=NC=NC12)[SiH](C)C)O | C20H35N5O4Si
